US08859596B2
tert-butyl 5-tert-butylpyridin-2-ylcarbamate
To a mixture of anhydrous CuCN (2.7 g, 30.4 mmol) in 100 mL of THF was added a solution of tert-butylmagnesium chloride (30.4 mL, 60.2 mmol, 2M solution in THF) under N2 at −78° C. After 20 minutes, tert-butyl 5-bromopyridin-2-ylcarbamate (2.1 g, 7.6 mmol, Aldrich) was added. The reaction mixture was stirred for 2 hours at −78° C. and then at room temperature for 12 hours. The mixture was quenched with saturated aqueous NH4OH and basified to pH 7 with 20% aqueous NaOH. The solid was filtered through a pad of Celite. The filtrate was extracted with ether and washed with water. The organic extract was dried over MgSO4 and concentrated. Purification by column chromatography (SiO2: 0-15% hexanes/ethyl acetate gradient) afforded 0.4 g of the title compound. MS (ESI+) m/z 251 (M+H)+.

reactant | CuCN | 30.4 mmol, 2.7 g | C(#N)[Cu]
reactant | tert-butylmagnesium chloride | 60.2 mmol, 2M, 30.4 mL | C(C)(C)(C)[Mg]Cl
reactant | tert-butyl 5-bromopyridin-2-ylcarbamate | 7.6 mmol, 2.1 g | BrC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C10H13BrN2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-tert-butylpyridin-2-ylcarbamate | 0.4 g | C(C)(C)(C)C=1C=CC(=NC1)NC(OC(C)(C)C)=O | C14H22N2O2
